US08703784B2
3-(6-phenylpyridin-3-yl)-5-(tetrahydro-1,1-dioxido-2H-thiopyran-4-yl)-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine (286.1 mg, 0.42 mmoL) was treated with 50% TFA in H2O (10 mL) until the disappearance of starting material in LCMS. Concentration afforded crude 3-(6-phenylpyridin-3-yl)-5-(tetrahydro-1,1-dioxido-2H-thiopyran-4-yl)pyrazolo[1,5-a]pyrimidin-7-amine: LCMS tR=1.12 Min (5 min run, UV254nm). Mass calculated for, M+ 419.1, observed m/z 420.2 (M+H).

reactant | 3-(6-phenylpyridin-3-yl)-5-(tetrahydro-1,1-dioxido-2H-thiopyran-4-yl)-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine | 286.1 mg | C1(=CC=CC=C1)C1=CC=C(C=N1)C=1C=NN2C1N=C(C=C2N(COCC[Si](C)(C)C)COCC[Si](C)(C)C)C2CCS(CC2)(=O)=O | C34H49N5O4SSi2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | H2O | 10 mL | O | H2O
product | 3-(6-phenylpyridin-3-yl)-5-(tetrahydro-1,1-dioxido-2H-thiopyran-4-yl)pyrazolo[1,5-a]pyrimidin-7-amine | C1(=CC=CC=C1)C1=CC=C(C=N1)C=1C=NN2C1N=C(C=C2N)C2CCS(CC2)(=O)=O | C22H21N5O2S
